US08809371B2
5-methyl-3-pyridineamine (191 mg), cesium carbonate (1.10 g), Pd2(dba)3 (186 mg), and Xantphos (235 mg) were added to a 1,4-dioxane (14 ml) solution containing tert-butyl cis-2-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)cyclohexylcarbamate (500 mg), followed by stirring at 100° C. for 2 hours in a nitrogen atmosphere. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added. Insoluble matter was removed by filtration, the filter cake was washed with water and ethyl acetate, the organic layer was collected, washed with saturated saline, and dried over anhydrous magnesium sulfate, and the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:0 to 1:4), diisopropylether was added, solid matter was collected by filtration, and a light yellow solid of tert-butyl cis-2-(6-(5-methylpyridin-3-ylamino)-5-cyano-3-fluoropyridin-2-ylamino)cyclohexylcarbamate (523 mg) was thus obtained.

reactant | 5-methyl-3-pyridineamine | 191 mg | CC=1C=C(C=NC1)N | C6H8N2
reactant | cesium carbonate | 1.10 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | 235 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | tert-butyl cis-2-(6-chloro-5-cyano-3-fluoropyridin-2-ylamino)cyclohexylcarbamate | 500 mg | ClC1=C(C=C(C(=N1)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)F)C#N | C17H22ClFN4O2
catalyst | Pd2(dba)3 | 186 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | 1,4-dioxane | 14 ml | O1CCOCC1 | C4H8O2
product | tert-butyl cis-2-(6-(5-methylpyridin-3-ylamino)-5-cyano-3-fluoropyridin-2-ylamino)cyclohexylcarbamate | 523 mg | CC=1C=C(C=NC1)NC1=C(C=C(C(=N1)N[C@@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)F)C#N | C23H29FN6O2
